US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-amino-1-benzothiophene-2-carboxamide dihydrochloride
87 mg (0.22 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-bromo-1-benzo-thiopene-2-carboxamide hydrochloride, 47.1 mg (0.26 mmol) of benzophenone-imine, 12.1 mg (0.02 mmol) of rac-BINAP, 45.8 mg (0.48 mmol) of sodium tert-butoxide and 6.0 mg (0.01 mmol) of Pd2(dba)3 are, under argon, added to a flask which has been dried by heating. 1.5 ml of toluene are added, and the reaction mixture is heated at 80° C. After 30 min, 0.5 ml of THF is added, followed by a further 6.0 mg (0.01 mmol) of Pd2(dba)3 after 6 h. After a further 6 h, the mixture is filtered (0.45 μm filter) and then purified by preparative HPLC. The resulting benzophenoneimine adduct is dissolved in a 1:1 mixture of THF and methanol with addition of 20% by volume of 1N hydrochloric acid. After 1 h at RT, the reaction mixture is concentrated. The solid formed is triturated with acetonitrile and filtered off. Drying under high vacuum gives 17 mg (21% of theory) of the title compound.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-bromo-1-benzo-thiopene-2-carboxamide hydrochloride | 0.22 mmol, 87 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Br)C=CC=C1
reactant | benzophenone-imine | 0.26 mmol, 47.1 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | rac-BINAP | 0.02 mmol, 12.1 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.48 mmol, 45.8 mg | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.01 mmol, 6.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.01 mmol, 6.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-amino-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC=C1N | InChI=1S/C16H19N3OS.2ClH/c17-12-3-1-2-11-8-14(21-15(11)12)16(20)18-13-9-19-6-4-10(13)5-7-19;;/h1-3,8,10,13H,4-7,9,17H2,(H,18,20);2*1H/t13-;;/m0../s1
